US07456293B2
Step C: Preparation of 2-[5-fluoro-2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethanol
This compound was prepared from 2-[(2-amino-4-fluorophenyl)amino]ethanol and trifluroacetic anhydride using analogous procedure described in Step C of Example 3.

reactant | 2-[(2-amino-4-fluorophenyl)amino]ethanol | NC1=C(C=CC(=C1)F)NCCO | C8H11FN2O
reactant | trifluroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-[5-fluoro-2-(trifluoromethyl)-1H-benzimidazol-1-yl]ethanol | FC1=CC2=C(N(C(=N2)C(F)(F)F)CCO)C=C1 | C10H8F4N2O
